US04337256
(a-2-2) Ten grams of 1-(1-benzoyloxy-1-methylethyl)-isoquinoline was dissolved in 100 ml of ethanol, and 2 g of 10% palladium-carbon was dissolved. The mixture was stirred in a stream of hydrogen at room temperature and atmospheric pressure for 24 hours. The reaction mixture was filtered through Celite, and the solvent was distilled off. Distillation under reduced pressure afforded 4.0 g of 1-isopropylisoquinoline. (b) A mixture of 9.4 g of 1-isopropylisoquinoline and 12 g of N-hydroxymethyl dichloroacetamide was dissolved in 94 g of conc. sulfuric acid and 9.5 g of 20% fuming sulfuric acid, and the solution was heated for 3 hours. The reaction mixture was poured into water, made weakly alkaline with an aqueous solution of sodium hydroxide, and extracted with ethyl acetate. The solvent was distilled off, and the residue was recrystallized from ethyl acetate-benzene to afford 20 g of 1-isopropyl-5-dichloroacetylaminomethylisoquinoline having a melting point of 150.7° to 151.0° C.

reactant | 1-(1-benzoyloxy-1-methylethyl)-isoquinoline | Ten grams | C(C1=CC=CC=C1)(=O)OC(C)(C)C1=NC=CC2=CC=CC=C12 | C19H17NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 2 g | [C].[Pd]
product | 1-isopropylisoquinoline | 4.0 g | C(C)(C)C1=NC=CC2=CC=CC=C12 | C12H13N
